US06080781
Synthesis of 3-[(3,4-dimethoxyphenyl)methylene]-7-hydroxy-4(4H)-benzopyranone
After 7-hydroxy-4(4H)-benzopyranone 1.0 g and 3,4-dimethoxybenzaldehyde 1.22 g were added to a mixture of concentrated hydrochloric acid 50 ml and methanol 40 ml, the mixture was refluxed for 1.5 hours and cooled to room temperature, water 100 ml was added and the mixture was allowed to stand for 30 minutes. The precipitated crystals were filtered.

reactant | 7-hydroxy-4(4H)-benzopyranone | 1.0 g | OC1=CC2=C(C(C=CO2)=O)C=C1 | C9H6O3
reactant | 3,4-dimethoxybenzaldehyde | 1.22 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | methanol | 40 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 3-[(3,4-dimethoxyphenyl)methylene]-7-hydroxy-4(4H)-benzopyranone | COC=1C=C(C=CC1OC)C=C1COC2=C(C1=O)C=CC(=C2)O | C18H16O5
